US03962321
Isobutyric acid (22.0 g, 0.25 mole), trans-2-nonen-1-ol (44.3 g, 0.25 mole), xylene (100 ml) and p-toluenesulfonic acid are heated to 145°C. The solution is refluxed for 5 minutes and 4.5 ml water is collected by distillation. The reaction mixture is cooled and first washed with water followed by 5% sodium carbonate. The washed solution is dried over sodium sulfate and distilled to yield 34.1 g of trans-2-nonenyl isobutyrate, b.p. 87° - 88°C/0.5 mm. An analytical sample is obtained for taste evaluation using gas chromatography.

reactant | Isobutyric acid | 0.25 mole, 22.0 g | C(C(C)C)(=O)O | C4H8O2
reactant | trans-2-nonen-1-ol | 0.25 mole, 44.3 g | C(\C=C\CCCCCC)O | C9H18O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | trans-2-nonenyl isobutyrate | 34.1 g | C(C(C)C)(=O)OC\C=C\CCCCCC | C13H24O2
